US08026257B2
Phosphorus oxychloride (1.029 ml, 11.04 mmol) was added dropwise to DMF (8 ml) at 0° C. The mixture was stirred 30 min at 0° C. and 7-bromo-5-(trifluoromethyl)-1H-indole (2.65 g, 10.04 mmol) in DMF (2 mL) was added dropwise. The cooling bath was removed and the reaction was stirred at ambient temperature for 3 hours. The reaction was quenched with ice (5 g) and aqueous sodium hydroxide (1N, 20 mL). The reaction was extracted with ethyl acetate (2×30 mL) and the organic phase was dried with MgSO4 and evaporated. The residue was purified by chromatography on SiO2 with a 5%-60% gradient of ethyl acetate/hexanes. The product 7-bromo-5-(trifluoromethyl)-1H-indole-3-carbaldehyde (2.17 g, 7.43 mmol, 74.0% yield) was obtained as a white solid. 1H-NMR (CDCl3, 400 MHz) δ 10.09 (s, 1H), 9.06 (s, 1H), 8.59 (s, 1H), 8.00 (d, J=3.2 Hz, 1H), 7.72 (d, J=3.0 Hz, 1H). LC/MS (HPLC method 4): tR=3.29 min, 292.06(MH)+.

reactant | Phosphorus oxychloride | 11.04 mmol, 1.029 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-bromo-5-(trifluoromethyl)-1H-indole | 10.04 mmol, 2.65 g | BrC=1C=C(C=C2C=CNC12)C(F)(F)F | C9H5BrF3N
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
reactant | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 7-bromo-5-(trifluoromethyl)-1H-indole-3-carbaldehyde | 7.43 mmol, 2.17 g, 74.0% yield | BrC=1C=C(C=C2C(=CNC12)C=O)C(F)(F)F | C10H5BrF3NO
